US07820683B2
N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-5-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]quinazolin-4-amine
Using the same procedure as in Example 44, (2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid (400 mg, 0.87 mmol) was reacted with morpholine to give the title compound as a white solid (120 mg, 26%); NMR Spectrum 1.58 (d, 3H), 3.46-3.73 (m, 8H), 5.70 (s, 2H), 5.88 (q, 1H), 7.04-7.12 (m, 3H), 7.29 (d, 1H), 7.34-7.37 (m, 2H), 7.72-7.75 (m, 2H), 7.86 (d, 1H), 8.16 (s, 1H), 8.51 (s, 1H), 8.54 (s, 1H), 11.13 (br s, 1H); Mass spectrum MH+ 527.

reactant | (2S)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoic acid | 0.87 mmol, 400 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@H](C(=O)O)C)C=CC1 | C25H20FN5O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-5-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]quinazolin-4-amine | 120 mg, 26% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@H](C(=O)N2CCOCC2)C)C=CC1 | C29H27FN6O3
